Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
amoxicillin
 
Attending: ___
 
___ Complaint:
vaginal bleeding, symptomatic anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ G2P2 female with iron deficiency anemia
and thyroid nodule transferred with vaginal bleeding. Reports
passing large clots ___ with continued heavy bleeding ___.
Denies chest pain, lightheadedness, endorses dizziness when
getting up to walk. Denies inciting trauma, recent intercourse.
denies dyschezia, hematochezia, denies dysuria or hematuria.
Denies fevers, chills, nausea, vomiting, abdominal pain.   
 
Past Medical History:
PMH:
- iron deficiency anemia
- graves disease s/p RAI ablation
- hypothyroidism

- denies hypertension
- denies diabetes
- denies personal or family history of VTE

PSH
- hysteroscopy, polypectomy, D+C ___
- excision of cervical lymph node ___ 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, appropriately tender, no rebound/guarding
GU: pad with minimal spotting
Ext: no tenderness to palpation
 
Pertinent Results:
___ 06:29PM BLOOD WBC-10.2* RBC-4.15 Hgb-11.4 Hct-35.2 
MCV-85 MCH-27.5 MCHC-32.4 RDW-16.2* RDWSD-50.2* Plt ___
___ 04:58AM BLOOD WBC-7.8 RBC-3.47* Hgb-9.4* Hct-28.9* 
MCV-83 MCH-27.1 MCHC-32.5 RDW-16.1* RDWSD-49.4* Plt ___
___ 07:50AM BLOOD WBC-5.5 RBC-3.81* Hgb-10.3* Hct-32.5* 
MCV-85 MCH-27.0 MCHC-31.7* RDW-16.3* RDWSD-51.2* Plt ___
___ 06:29PM BLOOD ___ PTT-51.0* ___
___ 07:50AM BLOOD ___ PTT-48.2* ___
___ 06:29PM BLOOD Glucose-115* UreaN-6 Creat-0.6 Na-141 
K-3.5 Cl-104 HCO3-25 AnGap-12
___ 06:29PM BLOOD ALT-19 AST-15 AlkPhos-91 TotBili-0.6
___ 06:29PM BLOOD Albumin-4.2 Calcium-8.8 Phos-3.5 Mg-2.0
 
Brief Hospital Course:
On ___, Ms. ___ was transferred to the ___ ED from 
___ with heavy vaginal bleeding. On ___, she was 
admitted to the inpatient gynecology service for observation of 
her heavy vaginal bleeding and acute blood loss anemia. While in 
the ED, she received tranexamic acid, fluid resuscitation, and 
was started on progesterone. She did not require blood products 
and her bleeding stabilized. Her laboratory work up was notable 
for an isolated elevation of her PTT. For this, hematology was 
consulted and recommended further work up. Given the stability 
of the patient's bleeding, vital signs, and symptoms, they 
recommended this work up be completed as an outpatient.

By hospital day 2, her bleeding was minimal and her laboratory 
values remained stable. She was tolerating PO, ambulating, 
voiding, and without signs or symptoms of anemia. She was 
discharged home in stable condition with close gynecology and 
hematology follow up scheduled. 
 
Medications on Admission:
- Cyanocobalamin 1000 mcg PO DAILY  
- Ferrous Sulfate 325 mg PO DAILY  
- FoLIC Acid 1 mg PO DAILY  
- Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  MedroxyPROGESTERone Acetate 10 mg PO DAILY 
Please complete the prescribed ten day course 
RX *medroxyprogesterone 10 mg 1 tablet(s) by mouth once a day 
Disp #*8 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
___ cause constipation 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vaginal bleeding, acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for heavy vaginal 
bleeding and symptomatic anemia. You were given high dose 
progesterone and a drug called tranexamic acid to help stop your 
bleeding. We followed your blood count, which decreased but did 
not warrant transfusion of blood products and stabilized prior 
to your discharge. One of the labs related to your blood 
clotting was abnormal. We consulted with our hematologist 
colleagues who determined that this could be worked up with your 
regular outpatient hematologist, but this should be done soon. 
After admission to our service, your bleeding had stabilized and 
your vital signs remained normal. The team feels you are stable 
for discharge home. Please follow up in the next week with your 
primary care provider and with your hematologist. 

Please follow the instructions below:

* You were started on a progesterone drug (Provera) to treat 
your bleeding and received a prescription to continue this drug 
for a total of ten days. Please take this medication as 
prescribed.
* We recommend an endometrial biopsy to evaluate the lining of 
your uterus. We will schedule an appointment with you in our 
OBGYN office. If you do not hear from us in ___ days, please 
call at ___.
* Do not take NSAIDs (ibuprofen, Motrin, Advil) until you have 
had your follow up appointment with your hematologist

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

 
Followup Instructions:
___